US06300363B1
Step1. 5-Bromoacetylpyrimidine
A mixture of 5-bromopyrimidine (2.20 g, 13.85 mmol), (1-ethoxyvinyl)tributyltin (5.00 g, 13.85 mmol), and tetrakis(triphenylphosphine)palladium (1.60 g, 1.38 mmol) in toluene (20 ml) was refluxed for 29 h, and then cooled to room temperature. The mixture was filtered through a pad of Celite and the filtrate was concentrated to give an oily residue. The residue was diluted with THF (30 ml) and water (8 ml). N-Bromosuccinimide (2.96 g, 16.61 mmol) was added at 0° C. The resulting mixture was stirred at 0° C. for 0.5 h and concentrated to ca. 10 ml. The residue was diluted with ethyl acetate (200 ml) and washed with water (100 ml×2), then dried (MgSO4). Removal of solvent gave an oily residue, which was purified by flash column chromatography eluting with ethyl acetate-hexane (1:3) to afford 2.60 g (94%) of the title compound as an oil.

reactant | 5-bromopyrimidine | 13.85 mmol, 2.20 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | (1-ethoxyvinyl)tributyltin | 13.85 mmol, 5.00 g | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
reactant | N-Bromosuccinimide | 16.61 mmol, 2.96 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 8 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 1.38 mmol, 1.60 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Bromoacetylpyrimidine | 2.60 g, 94% | BrCC(=O)C=1C=NC=NC1 | C6H5BrN2O
